US06458985B1
3-Methylindole
Di(1H,2H,2H-perfluorooctyl)phenylphosphine (80 mg, 0.1 mmol), palladium (II) acetate (11 mg, 0.05 mmol), N-allyl-2-iodoaniline (259 mg, 1 mmol) and triethylamine (0.15 ml, 1.1 mmol) were placed in a 10 ml stainless steel cell. The cell was sealed and pressurised to approximately 5520 kPa (800 psi) (i.e. full of carbon dioxide). The cell was then heated to 100 C. for 64 hrs and then allowed to cool. When the pressure had dropped below 13800 kPa (2000 psi), the cell was vented into ether (100 ml), the cell was opened once atmospheric pressure was reached and washed out with dichloromethane (20 ml). The organic fractions were combined and concentrated in vacuo to give the crude product. The product was purified by flash column chromatography on silica gel, eluting with 20% ether in hexane to give a white crystalline solid (49 mg, 0.37 mmol, 37%); δH (250 MHz; CDCl3) 7.85 (1H, br, NH), 7.63 (1H, m, H7), 7.34 (1H, m, H4), 7.15-7.26 (2H, m, H5 and H6), 6.97 (1H, s, NHCH), 2.38 (3H, s, Me).

reactant | N-allyl-2-iodoaniline | 1 mmol, 259 mg | C(C=C)NC1=C(C=CC=C1)I | C9H10IN
reactant | triethylamine | 1.1 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | carbon dioxide | C(=O)=O | CO2
catalyst | palladium (II) acetate | 0.05 mmol, 11 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3-Methylindole | 0.37 mmol, 49 mg, 37% | CC1=CNC2=CC=CC=C12 | C9H9N
